US07632851B2
(3Benzo[1,2,5]oxadiazol-4-yl-phenyl)-methyl-amine
Starting from 5-chloro-benzo[1,2,5]oxadiazole and (3-bromo-phenyl)-methyl-amine. Yellow powder. MS(ES+): 226 (M+1).

reactant | 5-chloro-benzo[1,2,5]oxadiazole | ClC=1C=CC=2C(=NON2)C1 | C6H3ClN2O
reactant | (3-bromo-phenyl)-methyl-amine | BrC=1C=C(C=CC1)NC | C7H8BrN
product | (3Benzo[1,2,5]oxadiazol-4-yl-phenyl)-methyl-amine | N1=C2C(=NO1)C(=CC=C2)C=2C=C(C=CC2)NC | C13H11N3O
